US07678798B2
(2S)-1-[(1R,2R)-5-Bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-2-methyl-4-(4-methylpiperidin-4-yl)piperazine Trihydrochloride
To a solution of tert-butyl 4-{(3S)-4-[(1R,2R)-5-bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate (50 mg, 0.093 mmol) in tetrahydrofuran (3 mL) was added a 4.00 M solution of hydrogen chloride in 1,4-dioxane (3 mL). The reaction mixture was stirred at room temperature for 1 h. Evaporation under reduced pressure afforded the desired de-Boc product.

reactant | tert-butyl 4-{(3S)-4-[(1R,2R)-5-bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 0.093 mmol, 50 mg | BrC=1C=C2C[C@H]([C@@H](C2=CC1)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C)OCC | C27H42BrN3O3
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (2S)-1-[(1R,2R)-5-Bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-2-methyl-4-(4-methylpiperidin-4-yl)piperazine Trihydrochloride | Cl.Cl.Cl.BrC=1C=C2C[C@H]([C@@H](C2=CC1)N1[C@H](CN(CC1)C1(CCNCC1)C)C)OCC | InChI=1S/C22H34BrN3O.3ClH/c1-4-27-20-14-17-13-18(23)5-6-19(17)21(20)26-12-11-25(15-16(26)2)22(3)7-9-24-10-8-22;;;/h5-6,13,16,20-21,24H,4,7-12,14-15H2,1-3H3;3*1H/t16-,20+,21+;;;/m0.../s1
